US05503826
25.6 g (0.09 Mol) of dry Cystine disodium salt, made from cystine and sodium hydroxide in the required amount, are heated together with 31 g (0.20 mol) 3-bromo-1,2-propanediol in 50 ml glycoldimethyl ether for 3 hours under reflux conditions. The solvent is subsequently distilled away, the residue received in dilute hydrochloric acid and then hydrogenated in the presence of a palladium/activated carbon catalyst. After receiving the calculated amount of hydrogen, the catalyst is filtered, the filtrate is neutralized and subsequently extracted with methylene chloride. After drying the methylene chloride phase over magnesium sulfate and distilling the methylene chloride solvent away one obtains a 14 g yield (≃39.8% of the theoretical yield) of an oily product (≃2-amino-3-mercaptopropionic acid-(2',3'-dihydroxypropyl)ester) which can be used in the composition for permanently shaping hair without additional purification.

reactant | Cystine disodium salt | 0.09 Mol, 25.6 g | [Na+].[Na+].C([C@@H](C(=O)[O-])N)SSC[C@@H](C(=O)[O-])N
reactant | cystine | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-bromo-1,2-propanediol | 0.20 mol, 31 g | BrCC(CO)O | C3H7BrO2
solvent | ether | CCOCC | C4H10O
product | 2-amino-3-mercaptopropionic acid-(2',3'-dihydroxypropyl)ester | OC(COC(C(CS)N)=O)CO | C6H13NO4S
